US08809369B2
A mixture solution of 2-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide (150 mg, 0.32 mmol), copper(I) iodide (20 mg, 0.1 mmol), 2-amino-2-methyl-propionic acid (135 mg, 1.3 mmol) and potassium carbonate (140 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[3-(6-cyclobutylsulfamoyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-5-fluoro-phenylamino]-2-methyl-propionic acid (79.8 mg, 51.0%) as a white solid: MS (ESI) M+1=490.1.

reactant | 2-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide | 0.32 mmol, 150 mg | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC(=C1)F)Br)(C)C | C21H24BrFN2O2S
reactant | 2-amino-2-methyl-propionic acid | 1.3 mmol, 135 mg | NC(C(=O)O)(C)C | C4H9NO2
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20 mg | [Cu]I
product | 2-[3-(6-cyclobutylsulfamoyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-5-fluoro-phenylamino]-2-methyl-propionic acid | 79.8 mg, 51.0% | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C=1C=C(C=C(C1)F)NC(C(=O)O)(C)C)(C)C | C25H32FN3O4S
